US05849930
Synthesis of N-(1,2-diethyl-4-pyrazolidinyl)-(4-geranyloxyphenylmethyl)amine
To a suspension of lithium aluminum hydride (0.27 g) in tetrahydrofuran anhydride (40 ml) was added a solution of N-(1,2-diethyl-4-pyrazolidinyl)-4-geranyloxybenzamide (0.89 g) in tetrahydrofuran anhydride (10 ml) dropwise while being cooled with ice. After being refluxed with heating for 5 hours, the reaction solution, with aqueous solution of sodium potassium tartrate added thereto, was extracted with dichloromethane. The extract was concentrated under a vacuum and thus obtained residue was purified by silica gel column chromatography (chloroform:methanol=40:1), thereby yielding 0.31 g (36%) of the aimed compound.

reactant | lithium aluminum hydride | 0.27 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-(1,2-diethyl-4-pyrazolidinyl)-4-geranyloxybenzamide | 0.89 g | C(C)N1N(CC(C1)NC(C1=CC=C(C=C1)OC\C=C(/C)\CCC=C(C)C)=O)CC | C24H37N3O2
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
product | N-(1,2-diethyl-4-pyrazolidinyl)-(4-geranyloxyphenylmethyl)amine | 0.31 g, 36% | C(C)N1N(CC(C1)NCC1=CC=C(C=C1)OC\C=C(/C)\CCC=C(C)C)CC | C24H39N3O
